* Long simulation test of quick diode (DiodeQk). Use for speed comparisons.
.options verbose
.options ftol=1e-10
.options jupdm=0

.tran2 tstop=1s tstep=1us

vpulse:v1 1 0 v2=4 tr=1ms tf=1ms pw=3ms  per=6ms

r:1 1 2 r=100
diodeqk:d1 2 0

*.options gnuplot
*
*.options preamble1="set term x11 font 'helvetica,13';
*         set title 'Current through diode'; set xlabel 'X';
*         set ylabel 'DIODE CURRENT (A)'"
*.out plot element "diodeqk:d1" 0 it preamble1 in "diodeqki.out"
*
*.options preamble2="set term x11 font 'helvetica,13';
*         set title 'Volatge across diode'; set xlabel 'X';
*         set ylabel 'DIODE VOLTAGE (V)'"
*.out plot term 2 vt "set title 'Voltage across Diode'" in "diodeqkv.out"
*
*.options preamble3="set term x11 font 'helvetica,13';
*         set title 'Current through diode'; set xlabel 'X';
*         set logscale y;
*         set ylabel 'DIODE CURRENT (log)'"
*.out plot element "diodeqk:d1" 0 it preamble3 in "diodeqkilog.out"
.end
